US06521754B2
(4-Methoxy-7-phenyl-benzothiazol-2-yl)-carbamic acid benzyl ester
To a stirred solution of 2-amino-4-methoxy-7-phenyl-benzothiazole (512 mg, 2 mmol) in pyridine at 90° C. was added benzyl chloroformate (3.3 ml, 23.4 mmol) in three portions over 6 hours. The reaction mixture was then evaporated to dryness and partioned between CH2Cl2 (50 ml) and saturated aqueous NaCl solution (50 ml), the aqueous phase was separated and extracted further with CH2Cl2 (2×50 ml) and the combined organic phases dried, filtered and evaporated. The crude residue was then chromatographed over SiO2 (Merck 230-400 mesh) eluting with CH2Cl2/EtOAc (4:1) to afford the title compound as a white foam (620 mg, 79% yield), MS: m/e=391.2 (M+H+).

reactant | 2-amino-4-methoxy-7-phenyl-benzothiazole | 2 mmol, 512 mg | NC=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC | C14H12N2OS
reactant | benzyl chloroformate | 23.4 mmol, 3.3 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (4-Methoxy-7-phenyl-benzothiazol-2-yl)-carbamic acid benzyl ester | 620 mg, 79% yield | C(C1=CC=CC=C1)OC(NC=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC)=O | C22H18N2O3S
